US08138205B2
Ammonium acetate (620 g, 8.0 mol) was added to a solution of 8-(cyclopropylmethoxy)-4-hydroxy-7-methoxyquinolin-2(1H)-one (105 g, 0.40 mol), acetic acid (400 mL), and toluene (200 mL). The reaction was refluxed with a Dean-Stark apparatus for 2 h, and then the mixture was concentrated to remove the toluene. The reaction was then refluxed overnight. Water/ice (200 mL) was added, and with external cooling, the pH was adjusted to 14 using 40% KOH. The resulting solids were collected by filtration and then purified by silica gel chromatography (100:1→30:1; dichloromethane/methanol) to give 75 g of 4-amino-8-(cyclopropylmethoxy)-7-methoxyquinolin-2(1H)-one as a light yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 9.20 (s, 1H), 7.59 (d, 1H), 6.88 (d, 1H), 6.53 (s, 2H), 5.29 (s, 1H), 3.86 (s, 3H), 3.81 (d, 2H), 1.22 (m, 1H), 0.44 (m, 2H), 0.22 (m, 2H); MS (ESI): 261.1.

reactant | Ammonium acetate | 8.0 mol, 620 g | C(C)(=O)[O-].[NH4+]
reactant | 8-(cyclopropylmethoxy)-4-hydroxy-7-methoxyquinolin-2(1H)-one | 0.40 mol, 105 g | C1(CC1)COC=1C(=CC=C2C(=CC(NC12)=O)O)OC | C14H15NO4
reactant | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-amino-8-(cyclopropylmethoxy)-7-methoxyquinolin-2(1H)-one | 75 g | NC1=CC(NC2=C(C(=CC=C12)OC)OCC1CC1)=O | C14H16N2O3
